US09382241B2
Step 3: N-(2-acetamido ethyl)-4-amino-6-(3-fluorophenyl)quinazoline-8-carboxamide 54
To a 4 mL screw-cap vial was added 4-amino-6-(3-fluorophenyl)quinazoline-8-carboxylic acid (0.10 mmol, 28 mg) followed by N-(2-aminoethyl)acetamide (2 equiv., 0.20 mmol, 20 mg), HATU (1.1 equiv., 0.11 mmol, 43 mg), dimethylformamide (0.5 mL), and triethylamine (3 equiv., 0.30 mmol, 0.042 mL). The reaction was capped and shaken at 50° C. for 4 h. The reaction was cooled to room temperature, diluted with 2.5 ml dichloromethane and washed with 1 ml water. Organic was concentrated, then the crude was purified by reverse phase HPLC, yielding 6 mg of desired product. 1H NMR (400 MHz, DMSO) δ 11.17-11.07 (t, J=5.6 Hz, 1H), 8.89-8.75 (m, 2H), 8.54-8.50 (s, 1H), 8.44-8.06 (m, 2H), 8.06-7.99 (t, J=5.5 Hz, 1H), 7.75-7.64 (m, 2H), 7.64-7.53 (m, 1H), 7.35-7.22 (m, 1H), 3.53-3.44 (m, 2H), 3.32-3.26 (m, 2H), 1.85-1.82 (s, 3H). LCMS M/Z (M+H)=368.

reactant | 4-amino-6-(3-fluorophenyl)quinazoline-8-carboxylic acid | 0.10 mmol, 28 mg | NC1=NC=NC2=C(C=C(C=C12)C1=CC(=CC=C1)F)C(=O)O | C15H10FN3O2
reactant | N-(2-aminoethyl)acetamide | 0.20 mmol, 20 mg, 2 equiv. | NCCNC(C)=O | C4H10N2O
reactant | HATU | 0.11 mmol, 43 mg, 1.1 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.30 mmol, 0.042 mL, 3 equiv. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | N-(2-acetamido ethyl)-4-amino-6-(3-fluorophenyl)quinazoline-8-carboxamide | 6 mg | C(C)(=O)NCCNC(=O)C=1C=C(C=C2C(=NC=NC12)N)C1=CC(=CC=C1)F | C19H18FN5O2
